US03998829
3α-Hydroxy-21-piperidinoacetylthiomethyl-5α-pregnane-11,20-dione.
A solution of 3α-hydroxy-21-methylene-5α-pregnane-11,20-dione (350 mg) in acetone (15 ml) was refluxed with piperidinothioacetic acid for 1/2 hour, poured into water and the suspension extracted into ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulphate and evaporated to give title compound (400 mg) as a white foam. [α]D + 50° (c = 0.19 ).

reactant | 3α-hydroxy-21-methylene-5α-pregnane-11,20-dione | 350 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C=C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C22H32O3
reactant | piperidinothioacetic acid | N1(CCCCC1)CC(=S)O | C7H13NOS
reactant | water | O | H2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 3α-Hydroxy-21-piperidinoacetylthiomethyl-5α-pregnane-11,20-dione | 400 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CCSC(CN5CCCCC5)=O)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C29H45NO4S
